US04371537
To 4.33 g of 4-bromophenol dissolved in a 22 ml THF/22 ml DMSO mixture was added 3.1 g of t-BuOK and then 9.39 g of 2,5-bis(n-hexylsulfonyl)pyridine, and the resulting mixture heated at 59° C. for 1 hr. The reaction mixture was cooled to room temperature and then added to approximately 4 to 5 volumes of water. The yellow precipitate which formed was removed by filtration. Recrystallization from CH2Cl2 /ethanol gave the product, 2-(4-bromophenoxy)-5-(n-hexylsulfonyl)pyridine, (52% yield), as white shiny prisms, m.p. 94° C.

reactant | 4-bromophenol | 4.33 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | t-BuOK | 3.1 g | CC(C)(C)[O-].[K+]
reactant | 2,5-bis(n-hexylsulfonyl)pyridine | 9.39 g | C(CCCCC)S(=O)(=O)C1=NC=C(C=C1)S(=O)(=O)CCCCCC | C17H29NO4S2
reactant | water | O | H2O
solvent | THF | 22 ml | C1CCOC1 | C4H8O
product | 2-(4-bromophenoxy)-5-(n-hexylsulfonyl)pyridine | 52% yield | BrC1=CC=C(OC2=NC=C(C=C2)S(=O)(=O)CCCCCC)C=C1 | C17H20BrNO3S
